US07544698B2
Step A: 1H-Indole-2-carbonyl chloride.
To a suspension of indole-2-carboxylic acid (800 mg, 4.9 mmol) in CH2Cl2 was added oxalyl chloride (1.28 mL, 14.9 mmol) and N,N-dimethylformamide (DMF; 0.05 mL). After 1.5 h at 40° C., the mixture was concentrated to give a yellow solid (874 mg, 98%), which was used without purification in subsequent reactions.

reactant | indole-2-carboxylic acid | 4.9 mmol, 800 mg | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | oxalyl chloride | 14.9 mmol, 1.28 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.05 mL | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1H-Indole-2-carbonyl chloride | 874 mg, 98% | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
